US07635715B2
Step A: Preparation of Methyl 4-phenyl-tetrahydro-2H-pyran-4-carboxylate
To NaH (60% dispersion in mineral oil (14.2 g, 355 mmol)) was added NMP (142 mL), and the mixture was cooled to 0° C. A solution of 1-bromo-2-(2-bromoethoxy)ethane (17.8 mL, 142 mmol) and methyl phenylacetate (20.00 mL, 142 mmol) in NMP was added dropwise, and the resulting reaction mixture was stirred at 0° C. for 2 hours. The reaction was quenched with water, acidified to pH=2 with concentrated HCl, extracted with 200 mL of diethyl ether, washed 2 times with 100 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the title compound after flash chromatography (15.40 g) as a white solid. MS m/e=221 (M+H)+.

reactant | NaH | 355 mmol, 14.2 g | [H-].[Na+]
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 142 mmol, 17.8 mL | BrCCOCCBr | C4H8Br2O
reactant | methyl phenylacetate | 142 mmol, 20.00 mL | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | NMP | 142 mL | CN1CCCC1=O | C5H9NO
product | Methyl 4-phenyl-tetrahydro-2H-pyran-4-carboxylate | C1(=CC=CC=C1)C1(CCOCC1)C(=O)OC | C13H16O3
